US09162983B2
N-Methyl-3-nitro-N-(2-phenylethyl)-5,6,7,8-tetrahydroquinolin-6-amine
A100 mL flask, equipped with a magnetic stirbar, was charged with 3-nitro-7,8-dihydroquinolin-6(5H)-one (2.5 g, 13.0 mmol), N-methyl-2-phenylethanamine (1.76 g, 13.0 mmol), and 1,2-dichloroethane (73 mL). Sodium triacetoxyborohydride (4.13 g, 19.5 mmol) was added as a solid. The mixture was stirred at ambient temperature for 40 hours. Saturated NaHCO3 (aq) was added until the pH=8. The mixture was extracted with dichloromethane (3×50 mL). The combined organic portions were dried (Na2SO4) and concentrated. The residue was purified by silica gel chromatography (0 to 10% MeOH in dichloromethane) to provide the title compound (0.73 g, 18%). 1H NMR (400 MHz, CD3OD), δ9.16 (d, 1H, J=2.6), 8.13 (d, 1H, J=2.6), 7.30-7.17 (m, 5H), 3.19 (ddd, 2H, J=19, 6, 4), 2.96-2.89 (m, 6H), 2.45 (s, 3H), 2.21-2.12 (m, 2H), 1.89-1.84 (m, 1H). MS [M+H]+=312.2 m/z.

reactant | 3-nitro-7,8-dihydroquinolin-6(5H)-one | 13.0 mmol, 2.5 g | [N+](=O)([O-])C=1C=NC=2CCC(CC2C1)=O | C9H8N2O3
reactant | N-methyl-2-phenylethanamine | 13.0 mmol, 1.76 g | CNCCC1=CC=CC=C1 | C9H13N
reactant | Sodium triacetoxyborohydride | 19.5 mmol, 4.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 73 mL | ClCCCl | C2H4Cl2
product | N-Methyl-3-nitro-N-(2-phenylethyl)-5,6,7,8-tetrahydroquinolin-6-amine | 0.73 g, 18% | CN(C1CC=2C=C(C=NC2CC1)[N+](=O)[O-])CCC1=CC=CC=C1 | C18H21N3O2
